************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G3_MIN3_T6_N3
* View Name:     schematic
* Netlisted on:  Apr  4 15:48:20 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G3_MIN3_T6_N3
* View Name:    schematic
************************************************************************

.SUBCKT G3_MIN3_T6_N3 A B C Vdd Vss Z
*.PININFO A:I B:I C:I Z:O Vdd:B Vss:B
XI25 Z Vss C A Vdd / TIGFET_PCELL_SP15CP15_N3
XI23 Z Vss A B Vdd / TIGFET_PCELL_SP15CP15_N3
XI21 Z Vdd C A Vss / TIGFET_PCELL_SP15CP15_N3
XI22 Z Vdd A B Vss / TIGFET_PCELL_SP15CP15_N3
XI20 Z Vdd C B Vss / TIGFET_PCELL_SP15CP15_N3
XI24 Z Vss C B Vdd / TIGFET_PCELL_SP15CP15_N3
.ENDS

