* File: G3_MIN3_T6_N2.pex.netlist.pex
* Created: Fri Apr  1 16:54:39 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_MIN3_T6_N2_VSS 2 4 6 8 10 12 27 32 37 40 42 45 53 57 60 65 70 75
+ 88 89 93 99 101 106 109 Vss
c66 107 Vss 6.43136e-19
c67 106 Vss 0.0038619f
c68 101 Vss 0.00207473f
c69 99 Vss 0.0082602f
c70 94 Vss 0.00137551f
c71 93 Vss 0.00772839f
c72 89 Vss 6.57551e-19
c73 88 Vss 0.00490261f
c74 75 Vss 0.00537019f
c75 70 Vss 7.10513e-22
c76 65 Vss 0.00231683f
c77 60 Vss 0.00177007f
c78 57 Vss 0.00552514f
c79 53 Vss 0.00488234f
c80 45 Vss 0.0850774f
c81 42 Vss 0.0849587f
c82 37 Vss 0.0679309f
c83 32 Vss 0.103906f
c84 27 Vss 0.307039f
c85 22 Vss 0.141189f
c86 10 Vss 0.134855f
c87 8 Vss 0.00171956f
c88 6 Vss 0.135276f
c89 2 Vss 0.134005f
r90 106 109 0.326018
r91 105 106 4.58464
r92 101 105 0.655813
r93 100 107 0.494161
r94 99 109 0.326018
r95 99 100 13.0037
r96 95 107 0.128424
r97 93 107 0.494161
r98 93 94 10.0862
r99 88 94 0.652036
r100 87 89 0.655813
r101 87 88 12.7536
r102 70 101 1.82344
r103 65 95 5.2515
r104 60 75 1.16709
r105 60 89 1.82344
r106 57 70 1.16709
r107 53 65 1.16709
r108 45 47 1.8672
r109 42 44 1.8672
r110 40 75 0.50025
r111 37 40 1.92555
r112 33 47 0.0685365
r113 32 34 0.652036
r114 32 33 2.8008
r115 29 47 0.5835
r116 28 42 0.0685365
r117 27 45 0.0685365
r118 27 28 10.9698
r119 24 44 0.5835
r120 23 37 0.0685365
r121 22 44 0.0685365
r122 22 23 4.7847
r123 12 57 0.185659
r124 10 34 3.8511
r125 8 53 0.185659
r126 6 29 3.8511
r127 4 53 0.185659
r128 2 24 3.8511
.ends

.subckt PM_G3_MIN3_T6_N2_VDD 2 4 6 8 10 12 27 32 42 45 53 57 60 61 63 65 69 71
+ 73 78 81 83 Vss
c76 83 Vss 0.00671487f
c77 79 Vss 7.78098e-19
c78 78 Vss 0.00468194f
c79 73 Vss 0.00129457f
c80 71 Vss 0.0122041f
c81 69 Vss 0.00238015f
c82 65 Vss 0.00185683f
c83 63 Vss 7.50392e-19
c84 62 Vss 0.0017907f
c85 61 Vss 0.007913f
c86 60 Vss 0.00707888f
c87 57 Vss 0.00500133f
c88 53 Vss 0.00483876f
c89 45 Vss 0.0849087f
c90 42 Vss 0.0854801f
c91 38 Vss 0.0711342f
c92 32 Vss 0.106714f
c93 27 Vss 0.308162f
c94 22 Vss 0.144473f
c95 12 Vss 0.13249f
c96 8 Vss 0.133305f
c97 6 Vss 0.00171956f
c98 4 Vss 0.133098f
r99 78 81 0.349767
r100 77 78 4.58464
r101 73 81 0.306046
r102 73 75 1.82344
r103 72 79 0.494161
r104 71 77 0.652036
r105 71 72 13.0037
r106 67 79 0.128424
r107 67 69 5.2515
r108 65 83 1.16709
r109 63 65 1.82344
r110 61 79 0.494161
r111 61 62 10.0862
r112 60 63 0.655813
r113 59 62 0.652036
r114 59 60 12.7536
r115 57 75 1.16709
r116 53 69 1.16709
r117 45 46 1.8672
r118 42 43 1.8672
r119 38 83 0.50025
r120 38 40 1.92555
r121 33 45 0.0685365
r122 32 34 0.652036
r123 32 33 2.8008
r124 29 45 0.5835
r125 28 43 0.0685365
r126 27 46 0.0685365
r127 27 28 10.9698
r128 24 42 0.5835
r129 23 40 0.0685365
r130 22 42 0.0685365
r131 22 23 4.7847
r132 12 34 3.8511
r133 10 57 0.185659
r134 8 29 3.8511
r135 6 53 0.185659
r136 4 24 3.8511
r137 2 53 0.185659
.ends

.subckt PM_G3_MIN3_T6_N2_Z 2 4 6 8 10 12 32 36 41 45 49 53 55 59 63 67 Vss
c60 67 Vss 3.51451e-19
c61 65 Vss 2.45386e-19
c62 63 Vss 0.00102688f
c63 59 Vss 7.58182e-19
c64 55 Vss 0.00456155f
c65 53 Vss 6.51205e-19
c66 49 Vss 6.88903e-19
c67 45 Vss 0.00781677f
c68 41 Vss 0.00689463f
c69 36 Vss 0.00387467f
c70 32 Vss 0.00319091f
c71 12 Vss 0.00171956f
c72 10 Vss 0.00171956f
r73 61 67 0.494161
r74 61 63 3.04254
r75 57 67 0.494161
r76 57 59 3.04254
r77 56 65 0.128424
r78 55 67 0.128424
r79 55 56 10.3363
r80 51 65 0.494161
r81 51 53 3.04254
r82 47 65 0.494161
r83 47 49 3.04254
r84 45 63 1.16709
r85 41 59 1.16709
r86 36 53 1.16709
r87 32 49 1.16709
r88 12 45 0.185659
r89 10 41 0.185659
r90 8 45 0.185659
r91 6 41 0.185659
r92 4 36 0.185659
r93 2 32 0.185659
.ends

.subckt PM_G3_MIN3_T6_N2_C 2 4 6 8 14 20 26 29 33 38 43 Vss
c35 43 Vss 0.00523941f
c36 38 Vss 0.00156891f
c37 33 Vss 0.00543691f
c38 29 Vss 3.56438e-22
c39 20 Vss 0.377731f
c40 14 Vss 0.380603f
r41 33 43 1.16709
r42 29 38 1.16709
r43 29 33 10.0654
r44 26 29 0.0729375
r45 20 43 0.50025
r46 14 38 0.50025
r47 6 8 10.1529
r48 6 20 3.09255
r49 2 4 10.1529
r50 2 14 3.09255
.ends

.subckt PM_G3_MIN3_T6_N2_B 2 4 6 8 17 18 26 29 35 Vss
c31 35 Vss 0.00144085f
c32 26 Vss 0.0839596f
c33 18 Vss 0.0346166f
c34 17 Vss 0.0963518f
c35 6 Vss 0.399392f
c36 2 Vss 0.447969f
r37 32 35 1.16709
r38 29 32 0.0833571
r39 24 35 0.0476429
r40 24 26 1.92555
r41 17 19 0.652036
r42 17 18 2.8008
r43 14 26 0.0685365
r44 13 18 0.652036
r45 6 8 10.1529
r46 6 19 3.8511
r47 4 14 3.8511
r48 2 4 10.1529
r49 2 13 3.8511
.ends

.subckt PM_G3_MIN3_T6_N2_A 2 4 6 8 17 29 34 38 41 46 Vss
c28 46 Vss 0.00532741f
c29 41 Vss 0.00134116f
c30 34 Vss 0.00178881f
c31 26 Vss 0.0871242f
c32 6 Vss 0.406031f
c33 2 Vss 0.376065f
r34 34 46 1.16709
r35 34 38 0.0416786
r36 29 41 1.16709
r37 29 34 5.03269
r38 24 46 0.0476429
r39 24 26 1.92555
r40 19 26 0.0685365
r41 17 41 0.50025
r42 8 19 3.8511
r43 6 8 10.1529
r44 4 17 3.09255
r45 2 4 10.1529
.ends

