* File: G3_MIN3_T6_N3.pex.netlist.pex
* Created: Mon Apr  4 15:49:45 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_MIN3_T6_N3_VSS 2 4 6 8 10 12 27 32 37 40 42 45 53 57 60 65 70 75
+ 88 89 93 99 101 106 109 Vss
c64 107 Vss 6.47574e-19
c65 106 Vss 0.00464148f
c66 101 Vss 0.00213175f
c67 99 Vss 0.0082833f
c68 94 Vss 0.00138375f
c69 93 Vss 0.00819383f
c70 89 Vss 6.61473e-19
c71 88 Vss 0.0060976f
c72 75 Vss 0.006288f
c73 70 Vss 1.73335e-19
c74 65 Vss 0.00209248f
c75 60 Vss 0.00138481f
c76 57 Vss 0.0103194f
c77 53 Vss 0.00454903f
c78 45 Vss 0.0856842f
c79 42 Vss 0.0855647f
c80 37 Vss 0.0648277f
c81 32 Vss 0.103906f
c82 27 Vss 0.306999f
c83 22 Vss 0.141041f
c84 10 Vss 0.186558f
c85 8 Vss 0.00171982f
c86 6 Vss 0.188337f
c87 2 Vss 0.185627f
r88 106 109 0.326018
r89 105 106 5.50157
r90 101 105 0.655813
r91 100 107 0.494161
r92 99 109 0.326018
r93 99 100 13.0037
r94 95 107 0.128424
r95 93 107 0.494161
r96 93 94 10.0862
r97 88 94 0.652036
r98 87 89 0.655813
r99 87 88 16.4214
r100 70 101 1.82344
r101 65 95 6.16843
r102 60 75 1.16709
r103 60 89 1.82344
r104 57 70 1.16709
r105 53 65 1.16709
r106 45 47 1.8672
r107 42 44 1.8672
r108 40 75 0.50025
r109 37 40 1.92555
r110 33 47 0.0685365
r111 32 34 0.652036
r112 32 33 2.8008
r113 29 47 0.5835
r114 28 42 0.0685365
r115 27 45 0.0685365
r116 27 28 10.9698
r117 24 44 0.5835
r118 23 37 0.0685365
r119 22 44 0.0685365
r120 22 23 4.7847
r121 12 57 0.123773
r122 10 34 5.1348
r123 8 53 0.123773
r124 6 29 5.1348
r125 4 53 0.123773
r126 2 24 5.1348
.ends

.subckt PM_G3_MIN3_T6_N3_VDD 2 4 6 8 10 12 27 32 42 45 53 57 60 61 63 65 69 71
+ 73 78 81 83 Vss
c74 83 Vss 0.00747336f
c75 79 Vss 7.84502e-19
c76 78 Vss 0.00603664f
c77 73 Vss 0.00149586f
c78 71 Vss 0.0125181f
c79 69 Vss 0.00223179f
c80 65 Vss 0.00180228f
c81 63 Vss 7.51405e-19
c82 62 Vss 0.00180268f
c83 61 Vss 0.00800879f
c84 60 Vss 0.00954496f
c85 57 Vss 0.00979559f
c86 53 Vss 0.00450493f
c87 45 Vss 0.0849231f
c88 42 Vss 0.0854945f
c89 38 Vss 0.0711342f
c90 32 Vss 0.106731f
c91 27 Vss 0.308123f
c92 22 Vss 0.144485f
c93 12 Vss 0.187032f
c94 8 Vss 0.187847f
c95 6 Vss 0.00171982f
c96 4 Vss 0.18764f
r97 78 81 0.349767
r98 77 78 5.50157
r99 73 81 0.306046
r100 73 75 1.82344
r101 72 79 0.494161
r102 71 77 0.652036
r103 71 72 13.0037
r104 67 79 0.128424
r105 67 69 6.16843
r106 65 83 1.16709
r107 63 65 1.82344
r108 61 79 0.494161
r109 61 62 10.0862
r110 60 63 0.655813
r111 59 62 0.652036
r112 59 60 16.4214
r113 57 75 1.16709
r114 53 69 1.16709
r115 45 46 1.8672
r116 42 43 1.8672
r117 38 83 0.50025
r118 38 40 1.92555
r119 33 45 0.0685365
r120 32 34 0.652036
r121 32 33 2.8008
r122 29 45 0.5835
r123 28 43 0.0685365
r124 27 46 0.0685365
r125 27 28 10.9698
r126 24 42 0.5835
r127 23 40 0.0685365
r128 22 42 0.0685365
r129 22 23 4.7847
r130 12 34 5.1348
r131 10 57 0.123773
r132 8 29 5.1348
r133 6 53 0.123773
r134 4 24 5.1348
r135 2 53 0.123773
.ends

.subckt PM_G3_MIN3_T6_N3_Z 2 4 6 8 10 12 32 36 41 45 49 53 55 59 63 67 Vss
c55 67 Vss 3.51451e-19
c56 65 Vss 2.45386e-19
c57 63 Vss 0.00102688f
c58 59 Vss 7.58182e-19
c59 55 Vss 0.0050105f
c60 53 Vss 6.51205e-19
c61 49 Vss 5.16244e-19
c62 45 Vss 0.00816234f
c63 41 Vss 0.00751221f
c64 36 Vss 0.00857712f
c65 32 Vss 0.00789336f
c66 12 Vss 0.00171982f
c67 10 Vss 0.00171982f
r68 61 67 0.494161
r69 61 63 3.95946
r70 57 67 0.494161
r71 57 59 3.95946
r72 56 65 0.128424
r73 55 67 0.128424
r74 55 56 10.3363
r75 51 65 0.494161
r76 51 53 3.95946
r77 47 65 0.494161
r78 47 49 3.95946
r79 45 63 1.16709
r80 41 59 1.16709
r81 36 53 1.16709
r82 32 49 1.16709
r83 12 45 0.123773
r84 10 41 0.123773
r85 8 45 0.123773
r86 6 41 0.123773
r87 4 36 0.123773
r88 2 32 0.123773
.ends

.subckt PM_G3_MIN3_T6_N3_C 2 4 6 8 14 20 26 33 38 43 Vss
c33 43 Vss 0.00462472f
c34 38 Vss 0.00103857f
c35 33 Vss 0.00642701f
c36 26 Vss 7.12876e-22
c37 20 Vss 0.486644f
c38 14 Vss 0.489687f
r39 33 43 1.16709
r40 29 38 1.16709
r41 29 33 11.5033
r42 26 29 0.166714
r43 20 43 0.50025
r44 14 38 0.50025
r45 6 8 12.7203
r46 6 20 4.37625
r47 2 4 12.7203
r48 2 14 4.37625
.ends

.subckt PM_G3_MIN3_T6_N3_B 2 4 6 8 17 18 26 29 32 35 Vss
c31 35 Vss 0.00167659f
c32 26 Vss 0.0837857f
c33 18 Vss 0.034641f
c34 17 Vss 0.09638f
c35 6 Vss 0.506992f
c36 2 Vss 0.554218f
r37 32 35 1.16709
r38 29 32 0.0729375
r39 24 35 0.0476429
r40 24 26 1.92555
r41 17 19 0.652036
r42 17 18 2.8008
r43 14 26 0.0685365
r44 13 18 0.652036
r45 6 8 12.7203
r46 6 19 5.1348
r47 4 14 5.1348
r48 2 4 12.7203
r49 2 13 5.1348
.ends

.subckt PM_G3_MIN3_T6_N3_A 2 4 6 8 17 29 34 38 41 46 Vss
c29 46 Vss 0.00528506f
c30 41 Vss 0.00159958f
c31 38 Vss 3.66482e-19
c32 34 Vss 0.00172621f
c33 29 Vss 3.54075e-22
c34 26 Vss 0.0871371f
c35 6 Vss 0.515115f
c36 2 Vss 0.485149f
r37 34 46 1.16709
r38 34 38 0.109406
r39 29 41 1.16709
r40 29 34 5.03269
r41 24 46 0.0476429
r42 24 26 1.92555
r43 19 26 0.0685365
r44 17 41 0.50025
r45 8 19 5.1348
r46 6 8 12.7203
r47 4 17 4.37625
r48 2 4 12.7203
.ends

